US03965113
6.0 G. of 2-amino-4-phenylthio-1-nitrobenzene is dissolved in 80 ml. acetic anhydride and treated with a few drops of sulfuric acid. The mixture is left at 20°-30°C for 2 hours then a little sodium acetate added and the solvent removed under vacuum. The residue is treated with water, filtered and recrystallized from methanol yielding 2-acetamido-4-phenylthio-1-nitrobenzene. [This material may also be obtained by reaction of 2-acetamido-4-chloro-1-nitrobenzene with sodium phenylmercaptide essentially as described above for the free amine.]

reactant | 2-amino-4-phenylthio-1-nitrobenzene | NC1=C(C=CC(=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C12H10N2O2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | 2-acetamido-4-phenylthio-1-nitrobenzene | C(C)(=O)NC1=C(C=CC(=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C14H12N2O3S
